US04963542
Production of sodium 7-[2-(2-imino-4-thiazolin-4-yl)-2-hydroxyimino-acetamido]-3-(4-methyl-1,2,4-triazol-3-yl)thiomethyl-3-cephem-4-carboxylate (syn-isomer)
In 20 ml of phosphate buffer (0.2M, pH 6.4) there was dissolved 0.883 g of 7-[2-(2-imino-4-thiazolin-4-yl)-2-hydroxyimino-acetamido]-3-acetoxymethyl-3-cephem-4-carboxylic acid hydrochloride (syn-isomer) together with 0.23 g of 4-methyl-1,2,4-triazole-3-thiol and 0.336 g of sodium hydrogen carbonate and the mixed solution was stirred at a temperature of 70° C. for 3.5 hours. The reaction mixture was subjected to column chromatography on polystyrene resin (Amberlite XAD-2, Rohm and Haas Co.), development being carried out with water. The fractions containing the desired product were pooled and lyophilized. By the above procedure there was obtained 0.371 g of the captioned compound.

reactant | 7-[2-(2-imino-4-thiazolin-4-yl)-2-hydroxyimino-acetamido]-3-acetoxymethyl-3-cephem-4-carboxylic acid hydrochloride | 0.883 g | Cl.N=C1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)O)C1=O)=NO
reactant | 4-methyl-1,2,4-triazole-3-thiol | 0.23 g | CN1C(=NN=C1)S | C3H5N3S
reactant | sodium hydrogen carbonate | 0.336 g | C(O)([O-])=O.[Na+]
reactant | water | O | H2O
solvent | phosphate | 0.2M, 20 ml, pH 6.4 | P(=O)([O-])([O-])[O-]
product | sodium 7-[2-(2-imino-4-thiazolin-4-yl)-2-hydroxyimino-acetamido]-3-(4-methyl-1,2,4-triazol-3-yl)thiomethyl-3-cephem-4-carboxylate | N=C1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=CN2C)C(=O)[O-])C1=O)=NO.[Na+] | InChI=1S/C16H16N8O5S3.Na/c1-23-5-18-21-16(23)32-3-6-2-30-13-9(12(26)24(13)10(6)14(27)28)20-11(25)8(22-29)7-4-31-15(17)19-7;/h4-5,9,13,29H,2-3H2,1H3,(H2,17,19)(H,20,25)(H,27,28);/q;+1/p-1/t9?,13-;/m1./s1
